US07259157B2
4-(tert-Butoxycarbonylamino-methyl)-piperidine-1-carboxylic acid benzyl ester
To an ice cold, stirred solution of 21 g of 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester in 250 mL of dichloromethane was added 18 g of di-tert-butyldicarbonate in 100 mL of dichloromethane over 30 min. After stirring overnight, the mixture was concentrated to dryness. Trituration with hexane gave a white solid:

reactant | 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester | 21 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN | C14H20N2O2
reactant | di-tert-butyldicarbonate | 18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(tert-Butoxycarbonylamino-methyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC(=O)OC(C)(C)C | C19H28N2O4
